US05011825
H-Arg-Ile-Asp(OtBu)-Arg-Ile-OH
H-Arg-Ile-Asp(OtBu)-Arg-Ile-OH diacetate 6.34 g of Z-Arg(Z2)-Ile-Asp(OtBu)-Arg-Ile-OH are catalytically hydrogenated in 120 ml of 90% acetic acid in analogy to Example 1b.

reactant | H-Arg-Ile-Asp(OtBu)-Arg-Ile-OH diacetate | 6.34 g | N[C@@H](CCCNC(N)=N)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N[C@@H]([C@@H](C)CC)C(=O)O.CC(=O)O.CC(=O)O
solvent | acetic acid | 120 ml | C(C)(=O)O | C2H4O2
product | H-Arg-Ile-Asp(OtBu)-Arg-Ile-OH | N[C@@H](CCCNC(N)=N)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N[C@@H]([C@@H](C)CC)C(=O)O | C32H61N11O8
